US08937092B2
To a stirred solution of 2-(4-cyano-3-methoxyphenyl)propanoic acid (112 mg, 0.545 mmol) and (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine (145 mg, 0.546 mmol) in acetonitrile were added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (157 mg, 0.819 mmol), N-hydroxybenzotriazole (111 mg, 0.819 mmol) and triethylamine (0.19 mL, 1.36 mmol). The reaction mixture was stirred for 15 h at room temperature. The residue dissolved in ethyl acetate and washed with water and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. 2-(4-Cyano-3-methoxyphenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide (222 mg) was obtained as 90% yield.

reactant | 2-(4-cyano-3-methoxyphenyl)propanoic acid | 0.545 mmol, 112 mg | C(#N)C1=C(C=C(C=C1)C(C(=O)O)C)OC | C11H11NO3
reactant | (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine | 0.546 mmol, 145 mg | C1(=CC(=CC=C1)C1=NC(=CC=C1CN)C(F)(F)F)C | C14H13F3N2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 0.819 mmol, 157 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | N-hydroxybenzotriazole | 0.819 mmol, 111 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.36 mmol, 0.19 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-Cyano-3-methoxyphenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | 222 mg, 90% yield | C(#N)C1=C(C=C(C=C1)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C)OC | C25H22F3N3O2
